US05532367
A stirring mixture of 7.0 grams (0.031 mole) of 7-bromo-2,3-dihydro-2,2-dimethylbenzofuran and 5.5 grams (0.031 mole) of N-bromosuccinimide in 150 mL of carbon tetrachloride is heated to reflux while irradiating with a sun lamp. The refluxing reaction mixture is stirred for about three hours, then it is cooled to ambient temperature. After this time the reaction mixture is washed with two 50 mL portions of aqueous 5% sodium bicarbonate solution, and one 50 mL portion of water. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 3,7-dibromo-2,3-dihydro-2,2-dimethylbenzofuran.

reactant | 7-bromo-2,3-dihydro-2,2-dimethylbenzofuran | 0.031 mole, 7.0 grams | BrC1=CC=CC=2CC(OC21)(C)C | C10H11BrO
reactant | N-bromosuccinimide | 0.031 mole, 5.5 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,7-dibromo-2,3-dihydro-2,2-dimethylbenzofuran | BrC1C(OC2=C1C=CC=C2Br)(C)C | C10H10Br2O
